US07282512B2
Preparation of 4-{3-[1-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclobutyl]propoxy}-2-chloropyrimidine
The title compound was prepared from 3-[1-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclobutyl]-1-propanol and 2,4-dichloropyrimidine using the same experimental procedure as in example 25a. 1H NMR (300 MHz, CDCl3) δ 8.23 (d, J=6 Hz, 1H), 6.59 (d, J=6 Hz, 1H), 4.33 (t, J=6 Hz, 2H), 3.44 (s, 2H), 1.81-1.51 (m, 8H), 1.21 (m, 2H), 0.84 (s, 9H), −0.002 (s, 6H). GC-MS m/z 371 (M+H).

reactant | 3-[1-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclobutyl]-1-propanol | [Si](C)(C)(C(C)(C)C)OCC1(CCC1)CCCO | C14H30O2Si
reactant | 2,4-dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
product | 4-{3-[1-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclobutyl]propoxy}-2-chloropyrimidine | [Si](C)(C)(C(C)(C)C)OCC1(CCC1)CCCOC1=NC(=NC=C1)Cl | C18H31ClN2O2Si
